Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
IV Dye, Iodine Containing Contrast Media / Penicillins / 
Percocet / Percodan
 
Attending: ___.
 
Chief Complaint:
Gait disturbance, headaches
 
Major Surgical or Invasive Procedure:
___ Left subdural hematoma evacuation

 
History of Present Illness:
Mr. ___ is an ___ male with a history of daily 
headaches, which had been worsening over time.  He also noticed 
that his gait was slower than two weeks ago.  He has a known 
subdural hematoma on the left side and this has been 
progressive.  On repeat scanning dated ___, the midline 
shift was slightly worse.

The patient was scheduled for elective evacuation of the 
subdural on ___.

 
Past Medical History:
Prostate cancer, hypertension, nephrolithiasis, gastric ulcer, 
GERD, and anemia
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On discharge:
A&Ox3
PERRL
EOMs intact
face symmetric
tongue midline
Motor: ___ throughout
Incision: c/d/i with staples in place

 
Pertinent Results:
___ CT head without contrast
1. Predominantly stable size of left cerebral convexity subdural 
hematoma 
though with persistent mass effect, rightward midline shift, and 
medial 
displacement of the left uncus. 
2.  Decreased size of right frontoparietal subdural hematoma. 

___ CT head without contrast
1. Status post left frontoparietal craniotomy evacuation of 
subdural hematoma. Expected postoperative changes are seen. 
  
2. Evolution of small right frontal subdural hematoma, with 
slight increase in size over the interval. 
  
3.  Decreased rightward midline shift. 
  

 
Brief Hospital Course:
Mr. ___ was admitted to the Neurosurgery service at ___ 
for elective evacuation of his left-sided subdural hematoma.  He 
was taken to the Operating Suite on the day of admission.  He 
tolerated the procedure well and there were no complications.  
Please see the operative report for further details.

Post-operatively, Mr. ___ was taken to the surgical ICU for 
recovery and further management.  His blood pressure was 
well-controlled (SBP < 140).  IV fluids were continued until he 
was taking adequate oral intake.  On POD 1, his subdural drain 
was discontinued without issue.  He was eating a regular diet.  
He was neurlogically intact and transferred to the inpatient 
ward on the same day.

On ___, he remained intact on examination. ___ evaluated the 
patient and determined that he was safe for discharge home. He 
was discharge after he was eating and voiding appropriately.
 
Medications on Admission:
Albuterol, amlodopine, fioricet, lantanoprost, keppra, 
lisinopril, pantoprazole, cialis, tylenol 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN shortness of 
breath 
2. Amlodipine 10 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
5. LeVETiracetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*2
6. Lisinopril 40 mg PO DAILY 
7. Pantoprazole 40 mg PO Q24H 
8. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*50 Tablet Refills:*0
9. Acetaminophen-Caff-Butalbital ___ TAB PO Q4H:PRN HA 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
tablet(s) by mouth every six (6) hours Disp #*40 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left subdural hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
•Have a friend/family member check your incision daily for 
signs of infection.
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Your wound was closed with staples. You may wash your hair 
only after sutures and/or staples have been removed. 
•You may shower before this time using a shower cap to cover 
your head.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
•You have been discharged on Keppra (Levetiracetam), you will 
not require blood work monitoring.
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.
•Make sure to continue to use your incentive spirometer while 
at home, unless you have been instructed not to. 
 
Followup Instructions:
___